US07405215B2
a.) 4-(5-Fluoro-2-methyl-1H-indol-3-yl)-2H-benzo[e][1,2,3]thiadiazine 1,1-dioxide. (Scheme 2)
AlCl3 (1.2 g, 10.5 mmol) was added to a solution of 4-chloro-2H-benzo[e][1,2,3]thiadiazine 1,1-dioxide (1.5 g, 7.0 mmol) and 5-fluoro-2-methyl indole (1.0 g, 7.0 mmol) in DCE (35 mL), and stirred overnight at 70° C. The reaction solution was diluted with H2O, and the product was extracted with a solution of CH2Cl2/EtOH (9/1, v/v). The extracted product was concentrated and purified via silica gel chromatography eluting with a gradient of 0 to 70% EtOAc in hexanes to afford 0.44 g (19%) of the sub-title compound. MS calculated for C16H12FN3O2S—H: 328, observed: 328.

reactant | AlCl3 | 10.5 mmol, 1.2 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | 4-chloro-2H-benzo[e][1,2,3]thiadiazine 1,1-dioxide | 7.0 mmol, 1.5 g | ClC1=NNS(C2=C1C=CC=C2)(=O)=O | C7H5ClN2O2S
reactant | 5-fluoro-2-methyl indole | 7.0 mmol, 1.0 g | FC=1C=C2C=C(NC2=CC1)C | C9H8FN
solvent | DCE | 35 mL | ClCCCl | C2H4Cl2
solvent | H2O | O | H2O
product | 4-(5-Fluoro-2-methyl-1H-indol-3-yl)-2H-benzo[e][1,2,3]thiadiazine 1,1-dioxide | 0.44 g, 19% | FC=1C=C2C(=C(NC2=CC1)C)C1=NNS(C2=C1C=CC=C2)(=O)=O | C16H12FN3O2S
